US07326718B2
14. 8-[(1S,2S)-2,3-Dihydro-2-hydroxy-1-indenyloxy)-6-(N,N-dimethylamino-carbonyl)-2,3-dimethyl-imidazo[1,2-a]pyridine
To a solution of 1.5 g (6.4 mmol) 6-(N,N-dimethylamino-carbonyl)-8-hydroxy-2,3-dimethyl-imidazo[1,2-a]pyridine in 30 ml ethanol and 7.5 ml water are added 1.7 g (12.9 mmol) (1R,2S)-epoxyindane and 1.8 ml triethylamine. After 3 h at 70° C., the mixture is cooled down and partitioned between dichloro-methane and water. The organic layer is separated, dried over anhydrous magnesium sulphate and evaporated. Purification of the residue by column chromatography on silica gel using ethyl acetate:light petroleum ether (1:1) and crystallization from diisopropyl ether yields 1.7 g (74%) of the title compound as a colourless solid (m.p. 122° C.).

reactant | 6-(N,N-dimethylamino-carbonyl)-8-hydroxy-2,3-dimethyl-imidazo[1,2-a]pyridine | 6.4 mmol, 1.5 g | CN(C(=O)C=1C=C(C=2N(C1)C(=C(N2)C)C)O)C | C12H15N3O2
reactant | (1R,2S)-epoxyindane | 12.9 mmol, 1.7 g | O1[C@H]2[C@@H]1CC1=CC=CC=C21 | C9H8O
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 7.5 ml | O | H2O
product | 8-[(1S,2S)-2,3-Dihydro-2-hydroxy-1-indenyloxy)-6-(N,N-dimethylamino-carbonyl)-2,3-dimethyl-imidazo[1,2-a]pyridine | 1.7 g, 74% | O[C@@H]1[C@H](C2=CC=CC=C2C1)OC=1C=2N(C=C(C1)C(=O)N(C)C)C(=C(N2)C)C | C21H23N3O3
